US06649604B2
2-(((S)-3-Acetamido-3-phenylpropyl)-amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone:
A solution of 2-(((S)-3-amino-3-phenylpropyl) -amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone (23.8 mg, 0.055 mmol) and acetic anhydride (20 μl, 0.21 mmol) in methanol(1 ml) was kept for 30 min at room temperature. Evaporation was followed by column chromatography (dichloromethane-methanol-ammonium hydroxide=93:7:0.7) to provide the title compound. MS (m/z): 472.2 (M+H)+; C27H26FN5O2requir. 471.5.

reactant | 2-(((S)-3-amino-3-phenylpropyl) -amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone | 0.055 mmol, 23.8 mg | N[C@@H](CCNC1=NC(=C(C(N1C)=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)C1=CC=CC=C1 | C25H24FN5O
reactant | acetic anhydride | 0.21 mmol, 20 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 1 ml | CO | CH4O
product | 2-(((S)-3-Acetamido-3-phenylpropyl)-amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone | C(C)(=O)N[C@@H](CCNC1=NC(=C(C(N1C)=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)C1=CC=CC=C1 | C27H26FN5O2
